US07417060B2
To a solution of methyl 4-chloro-2-nitrobenzoate (3.81 g) and [4-[2-[benzyl(tert-butoxycarbonyl)amino]ethyl]-phenyl]boronic acid (6.91 g) in 1,4-dioxane (76 ml) were added cesium carbonate (8.64 g), potassium fluoride (3.08 g), tri-tert-butylphosphine (1.1 ml) and tris(dibenzylideneacetone)dipalladium(0) (1.62 g) under nitrogen at room temperature and then stirred at 80° C. for 3 hours. The mixture was diluted with ethyl acetate, filtrated through silica gel pad and evaporated. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=3/1) to give methyl 4′-[2-[benzyl(tert-butoxycarbonyl)amino]ethyl]-3-nitro-4-biphenylcarboxylate (3.41 g).

reactant | methyl 4-chloro-2-nitrobenzoate | 3.81 g | ClC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | [4-[2-[benzyl(tert-butoxycarbonyl)amino]ethyl]-phenyl]boronic acid | 6.91 g | C(C1=CC=CC=C1)N(CCC1=CC=C(C=C1)B(O)O)C(=O)OC(C)(C)C | C20H26BNO4
reactant | cesium carbonate | 8.64 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium fluoride | 3.08 g | [F-].[K+]
reactant | tri-tert-butylphosphine | 1.1 ml | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | 1,4-dioxane | 76 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 1.62 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl 4′-[2-[benzyl(tert-butoxycarbonyl)amino]ethyl]-3-nitro-4-biphenylcarboxylate | 3.41 g | C(C1=CC=CC=C1)N(CCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OC)[N+](=O)[O-])C(=O)OC(C)(C)C | C28H30N2O6
